US04526788
A mixture of 6.0 g of 1,4-dihydroxy-5,8-bis[[2-[(2-hydroxypropyl)amino]ethyl]amino]anthraquinone dihydrochloride (prepared as described in Example 32 of U.S. Pat. No. 4,197,249) and 60 ml of methanol is treated with ammonia gas according to the procedure of Example 1 to give the corresponding free base, 1,4-dihydroxy-5,8-bis[[2-[(2-hydroxypropyl)amino]ethyl]amino]-anthraquinone.

reactant | 1,4-dihydroxy-5,8-bis[[2-[(2-hydroxypropyl)amino]ethyl]amino]anthraquinone dihydrochloride | 6.0 g | Cl.Cl.OC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)NCCNCC(C)O)NCCNCC(C)O)=O)O
reactant | ammonia | N | H3N
solvent | methanol | 60 ml | CO | CH4O
product | 1,4-dihydroxy-5,8-bis[[2-[(2-hydroxypropyl)amino]ethyl]amino]-anthraquinone | OC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)NCCNCC(C)O)NCCNCC(C)O)=O)O | C24H32N4O6
